US05965740
To a mixture of 1.02 g (3 mmol) of 2-(4-chloro-2-methylphenoxymethyl)phenyl 1-methylimidazol-2-yl ketone, 6 ml of tetra hydrofuran and 3 ml of methanol was added 0.11 g (3 mmol) of sodium borohydride under ice-cooling and stirred at room temperature for an hour. After completion of the reaction, 100 ml of brine was added and extracted twice with 50 ml of dichloromethane. The extract was dried over anhydrous magnesium and concentrated under reduced pressure. The crystal thus obtained was recrystallized from ethyl acetate to give 2-[2-(4-chloro-2-methylphenoxymethyl)-α-hydroxybenzyl]-1-methylimidazole (0.57 g, 55.4%) as colorless crystals. mp. 159-160° C.

reactant | 2-(4-chloro-2-methylphenoxymethyl)phenyl 1-methylimidazol-2-yl ketone | 3 mmol, 1.02 g | CN1C(=NC=C1)C(=O)C1=C(C=CC=C1)COC1=C(C=C(C=C1)Cl)C | C19H17ClN2O2
reactant | tetra hydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | methanol | 3 ml | CO | CH4O
reactant | sodium borohydride | 3 mmol, 0.11 g | [BH4-].[Na+]
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 2-[2-(4-chloro-2-methylphenoxymethyl)-α-hydroxybenzyl]-1-methylimidazole | 0.57 g, 55.4% | ClC1=CC(=C(OCC2=C(C(O)C=3N(C=CN3)C)C=CC=C2)C=C1)C | C19H19ClN2O2
